data/oMe_Silver.jsonl
{"reaction_id": "NR-053_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-c1ccccc1_3-C_4-C(F)(F)F","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(c1ccccc1)c(C)c1(C(F)(F)F)","OO"],"products_smiles": ["Oc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(c1ccccc1)c(C)c1(C(F)(F)F)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(c1ccccc1)c(C)c1(C(F)(F)F)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(c1ccccc1)c(C)c1(C(F)(F)F)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(c1ccccc1)c(C)c1(C(F)(F)F)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(c1ccccc1)c(C)c1(C(F)(F)F)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(c1ccccc1)c(C)c1(C(F)(F)F)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
{"reaction_id": "NR-323_1-C(C)(C)C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C(C)(C)C_4-C_5-CC_6-C","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(C(C)(C)C)C(C)(CC)OCC","CCCC[Li]"],"products_smiles": ["OC(C)C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C(C)(C)C)=C(C)(CC)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(C(C)(C)C)C(C)(CC)O[CH-]C","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(C)C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C(C)(C)C)=C(C)(CC)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C)C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C(C)(C)C)=C(C)(CC)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
